US07592373B2
3.32.b. tert-butyl-(3-chlorobiphenyl-4-ylethynyl)dimethylsilane
0.84 g (1.2 mmol) of bis-(triphenylphosphine)palladium (II) chloride, 0.23 g (1.2 mmol) of copper (I) iodide, and 6.28 mL (33.6 mmol) of (tert-butyldimethylsilyl)acetylene is added under an argon atmosphere to a solution of 8.1 g (24 mmol) of 3-chlorobiphenyl-4-yl trifluoromethanesulfonate in 50 mL of absolute DMF and 13.31 mL (96 mmol) of triethylamine.

reactant | (tert-butyldimethylsilyl)acetylene | 33.6 mmol, 6.28 mL | [Si](C)(C)(C(C)(C)C)C#C | C8H16Si
reactant | 3-chlorobiphenyl-4-yl trifluoromethanesulfonate | 24 mmol, 8.1 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C1=CC=CC=C1)Cl)(F)F | C13H8ClF3O3S
reactant | triethylamine | 96 mmol, 13.31 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | bis-(triphenylphosphine)palladium (II) chloride | 1.2 mmol, 0.84 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 1.2 mmol, 0.23 g | [Cu]I
product | tert-butyl-(3-chlorobiphenyl-4-ylethynyl)dimethylsilane | C(C)(C)(C)[Si](C)(C)C#CC1=C(C=C(C=C1)C1=CC=CC=C1)Cl | C20H23ClSi
